US07705154B2
Step 3. Preparation of 5-(1-Bromoethyl)-2-trifluoromethylpyridine
N-Bromosuccinimide (1.78 g, 0.01 mol) was added to anhydrous fresh methylene chloride (60 mL) at room temperature under an atmosphere of nitrogen. Once dissolved, the solution was cooled to 0° C. The 5-ethyl-2-trifluoromethyl-pyridine pyridine (1.75 g, 0.01 mol) was dissolved in a small amount of anhydrous methylene chloride and was added via syringe followed by zirconium tetrachloride (117 mg, 0.5 mmol). The ice bath was taken away and the mixture allowed to stir at room temperature overnight. TLC showed complete reaction (9:1, hexane:EtOAc). The reaction mixture was quenched with saturated sodium bicarbonate (25 mL). The organic layer was separated and washed with brine and dried (MgSO4). The residue was purified by column chromatography (1:20, EtOAc:Hex) to give the product, 2.04 g (80%), as a pale yellow liquid; 1H NMR (CDCl3) δ 8.77 (s, 1H), 7.97 (d, 1H), 7.69 (d, 1H), 5.21 (q, 1H), 2.08 (d, 3H).

reactant | N-Bromosuccinimide | 0.01 mol, 1.78 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 5-ethyl-2-trifluoromethyl-pyridine pyridine | 0.01 mol, 1.75 g | N1=CC=CC=C1.C(C)C=1C=CC(=NC1)C(F)(F)F
reactant | hexane | CCCCCC | C6H14
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | zirconium tetrachloride | 0.5 mmol, 117 mg | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 5-(1-Bromoethyl)-2-trifluoromethylpyridine | BrC(C)C=1C=CC(=NC1)C(F)(F)F | C8H7BrF3N
